US05157026
Step 2: 8-Butyl-6-Chloro-9-(2'-t-butoxycarbonylbiphen-4-yl)methylpurine
The titled compound was prepared by the alkylation of 6-chloro-8-butyl purine (0.063 g, 0.3 mmol) with t-Butyl-4-bromomethylbiphenyl-2'-carboxylate (0.104 g, 0.3 mmol) according to the procedure described in Step 3 of Example 12. After flash-chromatographic purification of the crude product using ethyl acetate-hexane (1:1), the product was obtained as a foam (0.085 g, 60%).

reactant | 6-chloro-8-butyl purine | 0.3 mmol, 0.063 g | ClC1=C2NC(=NC2=NC=N1)CCCC | C9H11ClN4
reactant | t-Butyl-4-bromomethylbiphenyl-2'-carboxylate | 0.3 mmol, 0.104 g | C(C)(C)(C)OC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)CBr | C18H19BrO2
product | 8-Butyl-6-Chloro-9-(2'-t-butoxycarbonylbiphen-4-yl)methylpurine | C(CCC)C=1N(C2=NC=NC(=C2N1)Cl)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC(C)(C)C | C27H29ClN4O2
